US05270319
4,6-Bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde (0.5 g, 1.5 mmoles) is treated with β-alanine (0.27 g, 3.1 mmoles) and 2,4-thiazolidinedione (0.22 g, 1.8 mmoles) according to the procedure of Example 6 to give 0.12 g (25%) of 5-[[4,6-bis-(1,1-dimethylethyl]-5 hydroxy-2-pyrimidinyl]methylene]-2,4-thiazolidinedione. MP=229°-232° C. dec.

reactant | 4,6-Bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde | 1.5 mmoles, 0.5 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C=O | C17H28N2O4
reactant | β-alanine | 3.1 mmoles, 0.27 g | NCCC(=O)O | C3H7NO2
reactant | 2,4-thiazolidinedione | 1.8 mmoles, 0.22 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[[4,6-bis-(1,1-dimethylethyl]-5 hydroxy-2-pyrimidinyl]methylene]-2,4-thiazolidinedione | 0.12 g, 25% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=C1C(NC(S1)=O)=O | C16H21N3O3S
